US07858640B2
[8-chloro-3-(4-fluorobenzyl)-4-isopropoxy-2-methylquinolin-5-yloxy]acetic Acid
A solution of [8-chloro-3-(4-fluorobenzyl)-4-isopropoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester (0.020 g), methanol (1.0 mL) and 1.0 M aqueous sodium hydroxide solution (0.25 mL) was stirred at room temperature for 3 hours. The pH of the solution was adjusted to 5 by the addition of formic acid and the solvent removed under reduced pressure. Purification of the residue by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water (30% to 90% of organic modifier) gave title compound as a pale yellow solid, 0.012 g.

reactant | [8-chloro-3-(4-fluorobenzyl)-4-isopropoxy-2-methylquinolin-5-yloxy]acetic acid methyl ester | 0.020 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)F)OC(C)C)=O | C23H23ClFNO4
reactant | methanol | 1.0 mL | CO | CH4O
reactant | sodium hydroxide | 1.0 M, 0.25 mL | [OH-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | [8-chloro-3-(4-fluorobenzyl)-4-isopropoxy-2-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)F)OC(C)C)OCC(=O)O | C22H21ClFNO4
